US06495551B1
(5R)-5-Azidomethyl-3-(4-(4-t-butyldimethylsilyloxymethylimidazol-1-yl)-3-fluorophenyl)-oxazolidin-2-one
(5R)-3-(4-(4-t-Butyldimethylsilyloxymethylimidazol-1-yl)-3-fluorophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one (13.6 g) was dissolved in dry N,N-dimethylformamide (110 ml). Sodium azide (3.53 g) was added, and the mixture was heated at 80° C. for 3.5 hours. The mixture was cooled, diluted with water (1.1 L) containing sodium bicarbonate (2 g), and extracted with ethyl acetate (2×800 ml). Combined organics were washed with water (2×300 ml), then brine, and dried over magnesium sulfate. The solution was evaporated to a small volume (˜100 ml), and insolubles filtered. The ethyl acetate soluble material was columned on silica (100 g), eluting with ethyl acetate. Product fractions were combined and evaporated to give a gum (10.0 g).

reactant | (5R)-3-(4-(4-t-Butyldimethylsilyloxymethylimidazol-1-yl)-3-fluorophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one | 13.6 g | [Si](C)(C)(C(C)(C)C)OCC=1N=CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O)F | C21H30FN3O6SSi
reactant | Sodium azide | 3.53 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium bicarbonate | 2 g | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
solvent | water | 1.1 L | O | H2O
product | (5R)-5-Azidomethyl-3-(4-(4-t-butyldimethylsilyloxymethylimidazol-1-yl)-3-fluorophenyl)-oxazolidin-2-one | 10.0 g | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1C=NC(=C1)CO[Si](C)(C)C(C)(C)C)F | C20H27FN6O3Si
